US04400509
0.582 g (5.0 mmoles) of 5-mercapto-1-methyltetrazole and 5.0 mg (0.03 mmole) of saccharin were dissolved in a mixture of 12 ml of ethyl acetate and 25 ml of dichloromethane and the mixture was refluxed while 1.26 ml of hexamethyldisilazane (5.5 mmoles) were added. The evolution of ammonia stopped after refluxing for one hour and volatile material was evaporated in vacuo to yield 0.94 g of 1-methyl-5-trimethylsilylthiotetrazole. NMR Spectrum (CCl4): 2 singlets at 0.61 and 3.79 ppm, integration ratio 3:1.

reactant | 5-mercapto-1-methyltetrazole | 5.0 mmoles, 0.582 g | SC1=NN=NN1C | C2H4N4S
reactant | hexamethyldisilazane | 5.5 mmoles, 1.26 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | ammonia | N | H3N
solvent | ethyl acetate | 12 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
catalyst | saccharin | 0.03 mmole, 5.0 mg | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
product | 1-methyl-5-trimethylsilylthiotetrazole | 0.94 g | CN1N=NN=C1S[Si](C)(C)C | C5H12N4SSi
